US05143920
A. Preparation of 2,6-dimethyl-4-aminophenol
Sulphanilic acid (43.3 g, 0.25 mol) and sodium carbonate (13.25 g, 0.125 mol) were dissolved in water (250 ml) and cooled to 15° C. Sodium nitrite (18.63 g, 0.27 mol) in water (100 ml) was added in one portion, and the mixture added immediately to concentrated hydrochloric acid (53 ml) and ice (300 g), with stirring. After 30 minutes, the resulting suspension was added to an ice-cold solution of 2,6-dimethylphenol (30.54 g, 0.25 mol) and sodium hydroxide (55 g) in water (550 ml), stirring vigorously. After 2 hours, the temperature was raised to 50°, and sodium dithionite (115 g, 0.66 mol) added portionwise. On heating to 75° the red colour discharged, and after a further 10 minutes, the solution was cooled to room temperature. The resulting white solid was filtered, washed and dried to give the title compound (27.33 g), m.p. 135°-7°.

reactant | Sulphanilic acid | 0.25 mol, 43.3 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | sodium carbonate | 0.125 mol, 13.25 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Sodium nitrite | 0.27 mol, 18.63 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 53 ml | Cl | ClH
reactant | 2,6-dimethylphenol | 0.25 mol, 30.54 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | sodium hydroxide | 55 g | [OH-].[Na+]
reactant | sodium dithionite | 0.66 mol, 115 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 250 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | water | 550 ml | O | H2O
product | 2,6-dimethyl-4-aminophenol | 27.33 g | CC1=C(C(=CC(=C1)N)C)O | C8H11NO
